US04056527
Analogously to Example 24, N,S-dimethyl-isothiourea hydroiodide and N-isopropyl-bis-(chlorocarbonyl)-amine (prepared analogously to Synthesis 1970, pages 542-543; boiling point 66-67° C/12 mm Hg yielded 1-isopropyl-3-methyl-4-methylmercapto-tetrahydro-1,3,5-triazine-2,6-dione as a colorless powder of melting point 73°-75° C.

reactant | N,S-dimethyl-isothiourea hydroiodide | I.CNC(SC)=N
reactant | N-isopropyl-bis-(chlorocarbonyl)-amine | C(C)(C)N(C(=O)Cl)C(=O)Cl | C5H7Cl2NO2
product | 1-isopropyl-3-methyl-4-methylmercapto-tetrahydro-1,3,5-triazine-2,6-dione | C(C)(C)N1C(N(C(NC1=O)SC)C)=O | C8H15N3O2S
